US06355823B1
2 g of dry 3,5-dimethoxyphenol was dissolved in 25 mL dry THF and cooled in an ice bath. To this solution was added 2.25 g of diethylazodicarboxylate (DEAD), 6 g of triphenylphosphine and 1 mL of ammonium chloride (NH4Cl). The mixture was stirred for 20 minutes. The mixture was warmed to room temperature and stirred for an additional 30 minutes. Silica gel was added to remove DEAD, triphenylphosphine, and excess ammonia, yielding 3,5-dimethoxyaniline.

reactant | 3,5-dimethoxyphenol | 2 g | COC=1C=C(C=C(C1)OC)O | C8H10O3
reactant | diethylazodicarboxylate | 2.25 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ammonium chloride | 1 mL | [Cl-].[NH4+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3,5-dimethoxyaniline | yield was approximately 80% | COC=1C=C(N)C=C(C1)OC | C8H11NO2
